US07449582B2
Step A: Preparation of (2-Chloro-5-nitro-phenyl)-acetonitrile
To a solution of 2-chloro-phenyl-acetonitrile (15.0 g, 99.0 mmol) in the dichloromethane (50 mL) and H2SO4 (40 mL) is slowly added a mixture of H2SO4 (14 mL) and HNO3 (5.5 mL) at 0° C. The reaction mixture is stirred at 0° C. for 20 minutes, warmed to room temperature for 30 minutes and then concentrated to remove organic solvent. The solution is poured into a beaker containing ice-water (400 mL) to give a crystalline precipitate, which is collected by vacuum filtration and washed with water to give the title intermediate (13.4 g, 69.0%).

reactant | 2-chloro-phenyl-acetonitrile | 99.0 mmol, 15.0 g | ClC1=C(C=CC=C1)CC#N | C8H6ClN
reactant | HNO3 | 5.5 mL | [N+](=O)(O)[O-] | HNO3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | H2SO4 | 40 mL | OS(=O)(=O)O | H2O4S
solvent | H2SO4 | 14 mL | OS(=O)(=O)O | H2O4S
product | (2-Chloro-5-nitro-phenyl)-acetonitrile | 13.4 g, 69.0% | ClC1=C(C=C(C=C1)[N+](=O)[O-])CC#N | C8H5ClN2O2
